US07858640B2
2-[3-(2,4-dichlorobenzyl)-8-fluoro-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]propionic Acid Methyl Ester
The title compound was prepared by the method of Preparation 34d using 3-(2,4-dichlorobenzyl)-8-fluoro-5-hydroxy-4-methyl-1H-quinolin-2-one and 2-bromopropionic acid methyl ester.

reactant | 3-(2,4-dichlorobenzyl)-8-fluoro-5-hydroxy-4-methyl-1H-quinolin-2-one | ClC1=C(CC=2C(NC3=C(C=CC(=C3C2C)O)F)=O)C=CC(=C1)Cl | C17H12Cl2FNO2
reactant | 2-bromopropionic acid methyl ester | COC(C(C)Br)=O | C4H7BrO2
product | 2-[3-(2,4-dichlorobenzyl)-8-fluoro-4-methyl-2-oxo-1,2-dihydroquinolin-5-yloxy]propionic Acid Methyl Ester | COC(C(C)OC1=C2C(=C(C(NC2=C(C=C1)F)=O)CC1=C(C=C(C=C1)Cl)Cl)C)=O | C21H18Cl2FNO4
